US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-[(3R)-tetrahydrofuran-3-yl]quinolin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and (3R)-tetrahydrofuran-3-amine. MS obsd. (ESI+) [(M+H)+] 424, 1H NMR (400 MHz, CD3OD) δ ppm 7.89 (t, J=4.4 Hz, 2 H), 7.83 (s, 1 H), 7.65 (t, J=3.7 Hz, 1 H), 7.47 (t, J=3.8 Hz, 1 H), 7.31 (d, J=2.1 Hz, 1 H), 7.24 (d, J=2.1 Hz, 1 H), 6.56 (d, J=1.5 Hz, 1 H), 6.01 (s, 1 H), 5.08 (s, 2 H), 4.40 (brs, 2 H), 4.02 (t, J=3.6 Hz, 1 H), 3.88 (m, J=7.2 Hz, 1 H), 3.80 (m, J=5.4 Hz, 1 H), 3.64 (d, J=4.5 Hz, 3 H), 2.30 (t, J=3.7 Hz, 4 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | (3R)-tetrahydrofuran-3-amine | O1C[C@@H](CC1)N | C4H9NO
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-[(3R)-tetrahydrofuran-3-yl]quinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N[C@H]2COCC2)C)=O | C23H25N3O3S
